US07713996B2
3-Chlorobenzenesulphonyl chloride (71 mg, 0.3 mmol, 1.1 equiv.) was added to a mixture of crude 2-chloro-4-[(2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester (100 mg, 0.3 mmol, 1 equiv.) and pyridine (0.2 mL, 2.4 mmol, 8 equiv.) in dichloromethane (2 ml) and the mixture was stirred at room temperature for 16 hours. The solvent was removed under a stream of N2 and the residue purified by column chromatography (SiO2, dichloromethane). The fractions were combined to afford crude 2-chloro-4-{[1-(3-chloro-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid methyl ester, 101 mg. This material was taken onto the next step without further purification. LC @215 nm; Rt 2.52: 84%, m/z (ES+): 505 (M+H+.).

reactant | 3-Chlorobenzenesulphonyl chloride | 0.3 mmol, 71 mg, 1.1 equiv. | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 2-chloro-4-[(2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester | 0.3 mmol, 100 mg, 1 equiv. | COC(C1=C(C=C(C=C1)NC(=O)C1=CC=C2CCNC2=C1)Cl)=O | C17H15ClN2O3
reactant | pyridine | 2.4 mmol, 0.2 mL, 8 equiv. | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-chloro-4-{[1-(3-chloro-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)NC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=CC(=CC=C1)Cl)Cl)=O | C23H18Cl2N2O5S
